US07622494B2
Methyl 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-ylcarbamate was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and methyl chloroformate to give a yellow oil (8% yield). 1H-NMR (CDCl3): δ 8.70 (s, 1H), 7.60 (m, 1H), 7.28-7.16 (m, 2H), 4.98 (m, 1H), 4.90 (m, 1H), 3.74 (s, 3H), 2.66 (m, 2H), 2.21 (m, 1H), 1.90 (m, 2H), 1.81 (m, 1H); MS m/z 324 (M+1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | Methyl 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-ylcarbamate | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(OC)=O | C14H15BrN2O2
